US04948794
A solution of 0.5 g (2.4 mmol) N-methyl-4,5-dimethoxy-2-nitroanilin in 150 ml ethanol was added 1 ml 4N hydrochloric acid, and the mixture was hydrogenated at atm. pressure by using 5% Pd-C (0,1 g) as a catalyst. The reaction mixture was filtered and evaporated in vacuo to give 2-amino-4,5-dimethoxy-N-methylaniline.

reactant | N-methyl-4,5-dimethoxy-2-nitroanilin | 2.4 mmol, 0.5 g | CNC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C9H12N2O4
reactant | hydrochloric acid | 4N, 1 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd-C | 0,1 g | [Pd] | Pd
product | 2-amino-4,5-dimethoxy-N-methylaniline | NC1=C(NC)C=C(C(=C1)OC)OC | C9H14N2O2
